US04820834
3-(RS)-Cinnamoylamino-1,3-dihydro-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one
3-(RS)-Amino-1,3-dihydro-5-(2'-fluorophenyl)-2H-1,4-benzodiazepin-2-one (50 mg, 0.186 mmol) was suspended in methylene chloride (1 ml). Cinnamoyl chloride (34.5 mg, 0.207 mol) was added to the methylene chloride mixture. The pH of the stirred mixture was adjusted to ~9 with 50 μl of triethylamine. After stirring for 16 hours the mixture was filtered. The product in the filtrate was purified by prep TLC. The product band was collected by washing the silica containing the product, with 80:20:2 CMW. The solvent was evaporated and the residue was dissolved in methanol, placed in a small vial and evaporated. Yield 16.6 mg.

reactant | 3-(RS)-Amino-1,3-dihydro-5-(2'-fluorophenyl)-2H-1,4-benzodiazepin-2-one | 0.186 mmol, 50 mg | NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C15H12FN3O
reactant | Cinnamoyl chloride | 0.207 mol, 34.5 mg | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | triethylamine | 50 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 3-(RS)-Cinnamoylamino-1,3-dihydro-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | C(C=CC1=CC=CC=C1)(=O)NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C24H18FN3O2
